US07230019B2
4-Hydroxyacetophenone (500 mg, 3.67 mmol), K2CO3 (510 mg, 3.69 mmol) and benzyl-2-bromoethyl ether (580 μL, 3.67 mmol) were suspended in ethanol (25 mL). The mixture was heated to reflux with stirring for 21 h. The volatiles were removed under reduced pressure and the contents washed with H2O and EtOAc. The organic layer was collected, dried over MgSO4 and purified on silica gel (1:3 EtOAc/Hexanes) yielding 4′-(2-Benzyloxyethoxy)acetophenone as a white crystalline solid (600 mg, 61%). 1H NMR (200 MHz, CDCl3) δ 2.55 (s, 3H), 3.85 (t, 2H, J=4.9 Hz), 4.21 (t, 2H, J=4.9 Hz), 4.64 (s, 2H), 6.95 (d, 2H, J=8.9 Hz), 7.35 (b, 5H), 7.93 (d, 2H, J=8.8 Hz).

reactant | 4-Hydroxyacetophenone | 3.67 mmol, 500 mg | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | K2CO3 | 3.69 mmol, 510 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl-2-bromoethyl ether | 3.67 mmol, 580 μL | C(C1=CC=CC=C1)C(COCC(CC1=CC=CC=C1)Br)Br | C18H20Br2O
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | 4′-(2-Benzyloxyethoxy)acetophenone | 600 mg, 61% | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C(C)=O | C17H18O3
